US05753654
Ethyl 3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-3-methylamino-2-cyanoacrylate
This compound was synthesized as a yellow oily substance from ethyl 3-methylamino-3-methylthio-2-cyanoacrylate and 2-aminomethyl-4-(p-fluorobenzyl)morpholine according to the same procedure as in Example 8. Yield=53%.

reactant | ethyl 3-methylamino-3-methylthio-2-cyanoacrylate | CNC(=C(C(=O)OCC)C#N)SC | C8H12N2O2S
reactant | 2-aminomethyl-4-(p-fluorobenzyl)morpholine | NCC1CN(CCO1)CC1=CC=C(C=C1)F | C12H17FN2O
product | Ethyl 3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-3-methylamino-2-cyanoacrylate | Yield=53% | FC1=CC=C(CN2CC(OCC2)CNC(=C(C(=O)OCC)C#N)NC)C=C1 | C19H25FN4O3
